US03944560
A solution of 3'-isopropyl-3,4-dihydro-2H-1,5-benzodioxepin-3-spiro-5'-oxazolidin-2'-one (24.8 g.; 94.2 mmole) in acetic acid (100 ml.) is cooled in an ice bath to the point at which freezing begins. A mixture of 90% nitric acid and concentrated sulfuric acid (54 mls., containing 1.2 ml. of nitric acid (d 1.5) to each 10 ml. of sulfuric acid, (ca. 124 mmole) is added dropwise with stirring over a period of 20 minutes, the cooling bath then is removed and stirring continued for 2 hours. A slight rise in the temperature of the reaction mixture will be noticed (to 34° C.) and the color darkens slightly. The nitration can be followed by thin layer chromatography (TLC) on silica gel using multiple development with 1:1 carbon tetrachloride/chloroform. The reaction mixture is poured into water (400 ml.) and the crude product extracted with methylene chloride (3 × 100 ml.). After washing the extract successively with water (100 ml.), 10% sodium carbonate (75 ml.) and again with water (100 ml.), it is dried over magnesium sulphate and evaporated to a syrup. The syrup is crystallized by boiling it with ethanol (50 ml.) yielding 15.58 g. (53.8%) of 3'-isopropyl-7-nitro-3,4-dihydro-2H-1,5-benzodioxepin-3-spiro-5'-oxazolidin-2'-one, m.p. 140°-144° C. and a second crop is obtained by concentrating the mother liquor to ca. 25 ml. to give an additional 3.44 g. (11.8%) of compound, m.p. 130°-140° C.

reactant | 3'-isopropyl-3,4-dihydro-2H-1,5-benzodioxepin-3-spiro-5'-oxazolidin-2'-one | 94.2 mmole, 24.8 g | C(C)(C)N1C(OC2(C1)COC1=C(OC2)C=CC=C1)=O | C14H17NO4
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | sulfuric acid | ca. 124 mmole | S(O)(O)(=O)=O | H2O4S
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | 3'-isopropyl-7-nitro-3,4-dihydro-2H-1,5-benzodioxepin-3-spiro-5'-oxazolidin-2'-one | 53.8% | C(C)(C)N1C(OC2(C1)COC1=C(OC2)C=CC(=C1)[N+](=O)[O-])=O | C14H16N2O6
